US08138377B2
(4) (1S,5R)-1-(1-naphthyl)-3-oxabicyclo[3.1.0]hexan-2-one
(1S)-2-hydroxymethyl-1-(1-naphthyl)-cyclopropanecarbonitrile (300 mg, 1.3 mmol) ethanol (0.6 mL) and 25N sodium hydroxide solution (0.3 mL) were heated under reflux for 18 hours. The reaction is monitored by TLC (dichloromethane (100%)). The reaction mixture was cooled to room temperature and ice cold water (12 mL) was added to the reaction mixture followed by concentrated hydrochloric acid drop to adjust the pH of the reaction mass to 1-2 and stirred for overnight. The aqueous layer was extracted with dichloromethane (25 mL). The organic layer was washed with 3% sodium bicarbonate solution, dried over anhydrous sodium sulphate, filtered and evaporated under reduced pressure to yield 128 mg (44%) of product. 1H NMR δ(300 MHz,CDCl3): 1.51-1.54 (1H,t, J=4.58,), 1.74-1.78 (1H,dd, J=7.7,4.8 Hz), 2.53-2.57 (1H,m), 4.43-4.46 (1H,d,J=9.5 Hz), 4.71-4.76 (1H,dd,J=9.3,4.5 Hz), 7.40-7.58 (4H,m), 7.83-7.89 (2H,m), 7.95-7.98 (1H d,J=8.2 Hz).

reactant | (1S)-2-hydroxymethyl-1-(1-naphthyl)-cyclopropanecarbonitrile | 1.3 mmol, 0.6 mL, 300 mg | OCC1[C@](C1)(C#N)C1=CC=CC2=CC=CC=C12 | C15H13NO
reactant | sodium hydroxide | 25N, 0.3 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1S,5R)-1-(1-naphthyl)-3-oxabicyclo[3.1.0]hexan-2-one | 128 mg, 44% | C1(=CC=CC2=CC=CC=C12)[C@]12C(OC[C@@H]2C1)=O | C15H12O2
